* E:\SOFTWARE\EXERCISE LTSPICE\FOURIER SERIES\Fourier_basics.asc
V1 Reference 0 SINE(0 1 1k)
R1 N001 out 0.5k
R2 N001 N002 130k
R3 N002 0 15k
R4 Reference N002 100k
V2 N001 0 5
Q1 out N002 0 0 2N2222
.model NPN NPN
.model PNP PNP
.lib C:\Users\BHUVANESH\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 100m 0 100n
.options numdgt = 7
.options plotwinsize =0
.four 1000 10 100 V(reference) V(out)
* FFT Basics
.backanno
.end
